US06566385B2
Step K: Preparation of N-[1-(4-Cyano-3-fluoro-phenyl)-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-3-(3-hydroxy-phenyl)-propionamide
BBr3 (1M in CH2Cl2 ) (4 mL) was added slowly to a solution of N-[1-(4-cyano-3-fluoro-phenyl)-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-3-(3-methoxy-phenyl)-propionamide (0.123 g, 0.25 mmol) in CHCl3 (2 mL) at 0° C. After 10 min the ice bath was removed and the mixture stirred at 20° C. for 20 min. The mixture was cooled to 0° C., quenched with saturated NaHCO3 solution (25 mL), then extracted with EtOAc (3×50 mL). The organic layers were combined, washed with water, brine, dried (Na2SO4), filtered, and concentrated to give the title compound.

reactant | BBr3 | 1M, 4 mL | B(Br)(Br)Br | BBr3
reactant | N-[1-(4-cyano-3-fluoro-phenyl)-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-3-(3-methoxy-phenyl)-propionamide | 0.25 mmol, 0.123 g | C(#N)C1=C(C=C(C=C1)C(C)(C=1N(C=NC1)C)NC(CCC1=CC(=CC=C1)OC)=O)F | C23H23FN4O2
solvent | CHCl3 | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[1-(4-Cyano-3-fluoro-phenyl)-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-3-(3-hydroxy-phenyl)-propionamide | C(#N)C1=C(C=C(C=C1)C(C)(C=1N(C=NC1)C)NC(CCC1=CC(=CC=C1)O)=O)F | C22H21FN4O2
